US08257931B2
2-phenyl-5-hydrazino-1,3,4-thiadiazole (16g)
A solution of the 2-Chloro-5-phenyl-[1,3,4]thiadiazole (2 mmol) and hydrazine hydrate (6 mmol, 3 eq) in iPrOH (10 mL) was heated at reflux overnight. The solvent was evaporated, water was added, and the product was isolated by filtration (110 mg, 57%).

reactant | 2-Chloro-5-phenyl-[1,3,4]thiadiazole | 2 mmol | ClC=1SC(=NN1)C1=CC=CC=C1 | C8H5ClN2S
reactant | hydrazine hydrate | 6 mmol, 3 eq | O.NN
solvent | iPrOH | 10 mL | CC(C)O | C3H8O
product | 2-phenyl-5-hydrazino-1,3,4-thiadiazole | C1(=CC=CC=C1)C=1SC(=NN1)NN | C8H8N4S
